* C:\Users\idontseeit\Desktop\Justins_Files\electronics\Projects\sudoku\git\FPGA-based-Sudoku\LTspice\LED_driver\ULN2003A_test.asc
Q1 N015 N017 N018 0 NPN
D1 N001 N015 LED1
D2 N002 N015 LED1
D3 N003 N015 LED1
D4 N004 N015 LED1
D5 N005 N015 LED1
D6 N006 N015 LED1
D7 N007 N015 LED1
R1 Vcc N001 {R}
R2 Vcc N002 {R}
R3 Vcc N003 {R}
R4 Vcc N004 {R}
R5 Vcc N005 {R}
R6 Vcc N006 {R}
R7 Vcc N007 {R}
R8 N016 GPIO_FPGA 2.7k
R9 N017 N016 7.2k
V1 Vcc 0 3.3
V2 GPIO_FPGA 0 3.3
Q2 N015 N016 N017 0 NPN
R10 N018 N017 3k
R11 N018 0 1
D8 N008 N015 LED1
R12 Vcc N008 {R}
D9 N009 N015 LED1
R13 Vcc N009 {R}
D10 N010 N015 LED1
R14 Vcc N010 {R}
D11 N011 N015 LED1
R15 Vcc N011 {R}
D12 N012 N015 LED1
R16 Vcc N012 {R}
D13 N013 N015 LED1
R17 Vcc N013 {R}
D14 N014 N015 LED1
R18 Vcc N014 {R}
.model D D
.lib C:\Users\idontseeit\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\idontseeit\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param R = 220
.tran 100us
*Typ RED GaAs LED: Vf=1.7V Vr=4V If=40mA trr=3uS
.MODEL LED1 D (IS=93.2P RS=42M N=3.73 BV=4 IBV=10U
+ CJO=2.97P VJ=.75 M=.333 TT=4.32U)
.backanno
.end
